US07429609B2
4-Methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid amide
35 mg of 4-methoxy-3-(E)-styryl-1H-indazole-5-carbonitrile was dissolved in a mixed solvent 2 mL concentrated sulfuric acid/1 mL water, and stirred at 110° C. for 1 hour and 15 minutes. After cooling the reaction mixture on ice, water was slowly poured under ice cooling, and the precipitated crystals were collected by filtration, and washed with water. After drying under reduced pressure, 22 mg of the title compound was obtained as brown crude crystals.

reactant | 4-methoxy-3-(E)-styryl-1H-indazole-5-carbonitrile | 35 mg | COC1=C2C(=NNC2=CC=C1C#N)\C=C\C1=CC=CC=C1 | C17H13N3O
reactant | water | O | H2O
solvent | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
product | 4-Methoxy-3-(E)-styryl-1H-indazole-5-carboxylic acid amide | 22 mg | COC1=C2C(=NNC2=CC=C1C(=O)N)\C=C\C1=CC=CC=C1 | C17H15N3O2
